US08198448B2
N-((6-(3,5-difluorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)-7-(4-fluoropiperidin-4-yl)-1,5-naphthyridin-4-amine
A solution of tert-butyl 4-(8-((6-(3,5-difluorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylamino)-1,5-naphthyridin-3-yl)-4-hydroxypiperidine-1-carboxylate (30 mg, 51 μmol) in 0.5 mL of DCM was cooled to −78 C. Then added DAST (13 μl, 102 μmol) and let stir to room temperature over 30 min. TFA was then added to the reaction mixture and stirred for 30 min. The solvent was then removed by rotary evaporation and the residue was redissolved in MeOH and free based through a cation exchange column. Purification via MPLC (DCM/MeOH+1% NH4OH) yielded the title compound (15 mg, 60% yield). M/Z=491.2 [M+H], calc 490.18 for C25H21F3N8.

reactant | tert-butyl 4-(8-((6-(3,5-difluorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylamino)-1,5-naphthyridin-3-yl)-4-hydroxypiperidine-1-carboxylate | 51 μmol, 30 mg | FC=1C=C(C=C(C1)F)C=1C=CC=2N(N1)C(=NN2)CNC=2C=CN=C1C=C(C=NC21)C2(CCN(CC2)C(=O)OC(C)(C)C)O | C30H30F2N8O3
reactant | DAST | 102 μmol, 13 μl | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | N-((6-(3,5-difluorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)-7-(4-fluoropiperidin-4-yl)-1,5-naphthyridin-4-amine | 15 mg, 60% yield | FC=1C=C(C=C(C1)F)C=1C=CC=2N(N1)C(=NN2)CNC2=CC=NC1=CC(=CN=C21)C2(CCNCC2)F | C25H21F3N8
